US07615648B2
Oxalyl chloride (4.87 g, 38.4 mmol) is added to dry dichloromethane (80 ml) cooled to below −60° C. under an atmosphere of nitrogen followed by dropwise addition of a solution of dry dimethyl sulphoxide (6.25 g, 80.10 mmol) in dry dichloromethane (25 ml) with stirring. After stirring for 15 min. at −78° C., a solution of 4-chloro-2-ethoxybenzyl alcohol (5.97 g, 32.0 mmol) in dry dichloromethane (35 ml) is added dropwise to give a white suspension. The suspension is stirred at −78° C. for 0.5 h then added triethylamine (16.18 g, 0.16 mol) rapidly. The mixture is stirred at room temperature for 1.5 h before quenching with aqueous saturated sodium bicarbonate (100 ml). The aqueous phase is separated and extracted with dichloromethane (2×). The combined organic phases is washed with aqueous HCl (1M) and then with brine, dried over magnesium sulphate, filtered and evaporated to a yellow solid. The solid is dissolved in diethyl ether and purified by eluting through a short plug of flash silica. Evaporate to give 4-chloro-2-ethoxybenzaldehyde as a pale yellow solid.

reactant | Oxalyl chloride | 38.4 mmol, 4.87 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulphoxide | 80.10 mmol, 6.25 g | CS(=O)C | C2H6OS
reactant | 4-chloro-2-ethoxybenzyl alcohol | 32.0 mmol, 5.97 g | ClC1=CC(=C(CO)C=C1)OCC | C9H11ClO2
reactant | triethylamine | 0.16 mol, 16.18 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-chloro-2-ethoxybenzaldehyde | ClC1=CC(=C(C=O)C=C1)OCC | C9H9ClO2
